US07166631B2
n-Butyl lithium (1.6M in hexanes, 4.1 ml, 6.56 mmol) was added dropwise to 2-bromo-1,4-dimethoxy-3-methylnaphthalene (1.537 g, 5.47 mmol) in tetrahydrofuran (30 ml) at −50° C. The reaction was stirred for 30 min at −50° C. before dropwise addition of ethyl chloroformate (1 ml, 10.46 mmol). The reaction was allowed to warm to 0° C. over 18 h quenched by addition of hydrochloric acid (2N) and extracted with ethyl acetate. The extract was dried (Na2SO4) and the solvent evaporated under vacuum. The residue was purified by SPE (silica, 10 g) eluting with 10% ethyl acetate in cyclohexane to give ethyl 1,4-dimethoxy-2-methylnaphthalene-3-carboxylate (1.33 g, 89%).

reactant | n-Butyl lithium | 6.56 mmol, 1.6M, 4.1 ml | C(CCC)[Li]
reactant | 2-bromo-1,4-dimethoxy-3-methylnaphthalene | 5.47 mmol, 1.537 g | BrC1=C(C2=CC=CC=C2C(=C1C)OC)OC | C13H13BrO2
reactant | ethyl chloroformate | 10.46 mmol, 1 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | ethyl 1,4-dimethoxy-2-methylnaphthalene-3-carboxylate | 1.33 g, 89% | COC1=C(C(=C(C2=CC=CC=C12)OC)C(=O)OCC)C | C16H18O4
